US08106070B2
Pd(PPh3)4 (230 mg, 0.20 mmol) was added to a solution of 2-bromo-5-fluoropyridine (350 mg, 2.0 mmol), 2-(4-bromophenyl)cyclopent-1-ene-1-carbaldehyde (500 mg, 2.0 mmol) and hexamethylditin (652 mg, 2.0 mmol) in degassed 1,4-dioxane (10 mL) at ambient temperature. After stirring at 110° C. for a further 3 days, the reaction mixture was diluted with diethyl ether and CsF/celite (1:1) was added. After stirring vigorously for 1 hr, reaction mixture was filtered and concentrated. Chromatography over silica eluting with 0-20% ethyl acetate/hexane afforded 2-[4-(5-fluoropyridin-2-yl)phenyl]cyclopent-1-ene-1-carbaldehyde as an orange gum.

reactant | 2-bromo-5-fluoropyridine | 2.0 mmol, 350 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | 2-(4-bromophenyl)cyclopent-1-ene-1-carbaldehyde | 2.0 mmol, 500 mg | BrC1=CC=C(C=C1)C1=C(CCC1)C=O | C12H11BrO
reactant | hexamethylditin | 2.0 mmol, 652 mg | C[Sn](C)C.C[Sn](C)C
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | CsF | [F-].[Cs+]
catalyst | Pd(PPh3)4 | 0.20 mmol, 230 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(5-fluoropyridin-2-yl)phenyl]cyclopent-1-ene-1-carbaldehyde | FC=1C=CC(=NC1)C1=CC=C(C=C1)C1=C(CCC1)C=O | C17H14FNO
